US04152433
A solution of ethyl 2-methoxyimino-4-bromoacetoacetate (a mixture of syn and anti isomers) (17.4 g.) and thiourea (5.4 g.) in ethanol (100 ml.) was refluxed for 4 hours. The reaction mixture was allowed to stand in a refrigerator to precipitate crystals. The crystals were collected by filtration, washed with ethanol and dried to give ethyl 2-methoxyimino-2-(2-aminothiazol-4-yl)acetate hydrobromide (anti isomer) (9.5 g.). The filtrate and the washings were put together and concentrated under reduced pressure. Water (100 ml.) was added to the residue and the mixture was washed with ether. The aqueous layer was alkalized with a 28% aqueous solution of ammonia and extracted with ethyl acetate. The extract was washed with water and a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give crystalline substance of ethyl 2-methoxyimino-2-(2-aminothiazol-4-yl)acetate (syn isomer), which can be represented as ethyl 2-methoxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetate (syn isomer), (5.2 g.)

reactant | ethyl 2-methoxyimino-4-bromoacetoacetate | CON=C(C(=O)OCC)C(=O)CBr | C7H10BrNO4
reactant | thiourea | 5.4 g | NC(=S)N | CH4N2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-methoxyimino-2-(2-aminothiazol-4-yl)acetate hydrobromide | 9.5 g | Br.CON=C(C(=O)OCC)C=1N=C(SC1)N | InChI=1S/C8H11N3O3S.BrH/c1-3-14-7(12)6(11-13-2)5-4-15-8(9)10-5;/h4H,3H2,1-2H3,(H2,9,10);1H
